US07759337B2
A mixture of tert-butyl 5-(6-bromophthalazin-1-yl)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylate (0.18 g, 0.44 mmol), N-cyclopropyl-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide (0.14g, 0.44 mmol), tetrakis(triphenylphosphine)palladium (25 mg, 0.022 mmol) and 2 M potassium carbonate (0.66 mL, 1.32 mmol) in 5 mL DME/EtOH (4:1) was stirred at 90° C. for 2 h. The mixture was transferred directly to a column and purified via flash chromatography (silica gel) eluting with a gradient of 2% 2 M ammonia in MeOH/DCM to 10% 2M ammonia in MeOH/DCM to give tert-butyl 5-(6-(5-(cyclopropylcarbamoyl)-2-methylphenyl) phthalazin-1-yl)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylate (0.20 g) as a yellow solid.

reactant | tert-butyl 5-(6-bromophthalazin-1-yl)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylate | 0.44 mmol, 0.18 g | BrC=1C=C2C=NN=C(C2=CC1)N1C2CN(C(C1)C2)C(=O)OC(C)(C)C | C18H21BrN4O2
reactant | N-cyclopropyl-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | 0.44 mmol, 0.14g | C1(CC1)NC(C1=CC(=C(C=C1)C)B1OC(C(O1)(C)C)(C)C)=O | C17H24BNO3
reactant | potassium carbonate | 1.32 mmol, 2 M, 0.66 mL | C([O-])([O-])=O.[K+].[K+]
solvent | DME EtOH | 5 mL | COCCOC.CCO
catalyst | tetrakis(triphenylphosphine)palladium | 0.022 mmol, 25 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 5-(6-(5-(cyclopropylcarbamoyl)-2-methylphenyl) phthalazin-1-yl)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylate | 0.20 g | C1(CC1)NC(=O)C=1C=CC(=C(C1)C=1C=C2C=NN=C(C2=CC1)N1C2CN(C(C1)C2)C(=O)OC(C)(C)C)C | C29H33N5O3
